US06194446B1
Preparation of 3-[2-(2-phenyl-4-oxazolyl)ethoxy]benzyl alcohol
14.0 g (47.9 mM) of 3-[2-(2-phenyl-4-oxazolyl)ethoxy]benzaldehyde, prepared as described in Preparation 2 herein, was diluted with 200 mL i-PrOH and treated with 2.89 g (76.6 mM) of sodium borohydride. The mixture was stirred at ambient temperature for 24 hr. 250 mL of H2O was added slowly over a period of 1 hr to quench the reaction and the resulting mixture was stirred for 1 hr. It was then concentrated under reduced pressure and the residue was diluted with 300 mL EtOAc and washed with H2O (300 mL) and brine (300 mL). All the organics were combined, dried over MgSO4, and concentrated to yield 13.6 g of a yellow waxy solid.

reactant | 3-[2-(2-phenyl-4-oxazolyl)ethoxy]benzaldehyde | 47.9 mM, 14.0 g | C1(=CC=CC=C1)C=1OC=C(N1)CCOC=1C=C(C=O)C=CC1 | C18H15NO3
reactant | sodium borohydride | 76.6 mM, 2.89 g | [BH4-].[Na+]
reactant | H2O | 250 mL | O | H2O
solvent | i-PrOH | 200 mL | CC(C)O | C3H8O
product | 3-[2-(2-phenyl-4-oxazolyl)ethoxy]benzyl alcohol | C1(=CC=CC=C1)C=1OC=C(N1)CCOC=1C=C(CO)C=CC1 | C18H17NO3
